US04837235
A solution of cyclopentylmethylamine (2.66 g), 5-carboxyindole (4.76 g), 4-(dimethylamino)pyridine (3.60 g) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (5.67 g) in methylene chloride (60 ml) was stirred for 12 hours under an atmosphere of nitrogen. The amber solution was diluted with methylene chloride (150 ml); washed successively wth 10% (w/v) aqueous sodium carbonate, 10% (v/v) hydrochloric acid, water, and brine; dried (MgSO4); and evaporated. The residual amber oil was purified by flash chromatography on silica gel (700 ml), eluting with 1:3 v/v ethyl acetate:chloroform, to yield 5-(N-cyclopentylmethylcarbamoyl)indole (CC) (5.17 g, 80%) as a white crystalline solid; mp 110°-112° C.; NMR (80 MHz, CDCl3): 1.0-2.4(broad m, 9H, cyclopentyl), 3.4(dd, 2H, CH2N), 6.2(broad, 1H, NH), 6.6(m, 1H, H3 -indole), 7.3(t, 1H, H2 -indole), 7.4(d, 1H, H7 -indole), 8.5(broad, 1H, CONH).

reactant | cyclopentylmethylamine | 2.66 g | C1(CCCC1)CN | C6H13N
reactant | 5-carboxyindole | 4.76 g | C(=O)(O)C=1C=C2C=CNC2=CC1 | C9H7NO2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 5.67 g | Cl.CN(CCCN=C=NCC)C
catalyst | 4-(dimethylamino)pyridine | 3.60 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 5-(N-cyclopentylmethylcarbamoyl)indole | 5.17 g, 80% | C1(CCCC1)CNC(=O)C=1C=C2C=CNC2=CC1 | C15H18N2O
